US06235764B1
1,3-Difluoro-5-methyl-benzene (G═H)
A mixture of 1-bromomethyl-3,5-difluoro-benzene (75 g, 0.362 mol), Pd/C (5%, 5 g), and sodium acetate (208 g, 2.54 mol) in ether (300 mL) was treated with hydrogen gas (50 psi) in a Parr shaker for 2 days. The mixture was filtered through Celite and the organic solution washed three times with saturated aqueous sodium bicarbonate solution. The aqueous layers were washed with ether and the combined organic layers dried (MgSO4), filtered, and partially concentrated by evaporation using a cold water bath. The volatile product was obtained as a mixture with ether and the ratio (˜3:2, ether:product, g:g) calculated based on 1H NMR integration to determine actual yield (45.5 g, 0.355 mol, 98%) of product for scaling reagents in the ensuing reaction. 1H NMR (400 MHz, CDCl3) δ2.25 (s, 3H), 6.51-6.56 (m, 1H), 6.58-6.60 (m, 2H) ppm.

reactant | 1-bromomethyl-3,5-difluoro-benzene | 0.362 mol, 75 g | BrCC1=CC(=CC(=C1)F)F | C7H5BrF2
reactant | sodium acetate | 2.54 mol, 208 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | ether | 300 mL | CCOCC | C4H10O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 1,3-Difluoro-5-methyl-benzene | 0.355 mol, 45.5 g, 98% | FC1=CC(=CC(=C1)C)F | C7H6F2
